US06838507B2
Using the emulsion polymerization process described above for the two stage copolymer, a two stage copolymer composed of methyl methacrylate: butyl acrylate ratio of 60:40 was synthesized to yield a polymer latex with 204 nm average particles (no clay). The emulsifier used in the polymerization process was 1.28% of a 75% solution of dioctyl sulfosuccinate sodium salt. The total solids content of the emulsion was 48.55 weight percent. A portion of the emulsion was coated onto a 0.002 cm thick aluminum sheet to yield a 0.069 cm thick film. The entire arrangement of film and substrate was dried overnight in a vacuum oven at 75° C. After drying a disk of surface area 2.7318 cm2 was cut from the laminate and evaluated, by dielectric relaxation spectroscopy, for assessment of the magnitude of the dielectric storage factor. The data listed in TABLE VI, reveal the value of the dielectric storage factor. A list of the mechanical properties are given in TABLE VII.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | dioctyl sulfosuccinate sodium salt | [Na].S(=O)(=O)(O)C(C(=O)OCCCCCCCC)CC(=O)OCCCCCCCC
reactant | aluminum | [Al] | Al
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
